US07456218B2
tert-butyl 3-[4-({4′-[2-(ethylthio)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)phenyl]propanoate
To a solution of tert-butyl 3-{4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate (1.69 g, 3.91 mmol), 2-(ethylthio)ethanol (0.46 mL, 4.30 mmol) and tributylphosphine (1.46 mL, 5.86 mmol) in tetrahydrofuran (33 mL) was added 1,1′-(azodicarbonyl)dipiperidine (1.48 g, 5.86 mmol) at room temperature with stirring. The reaction mixture was stirred at room temperature for 16 hrs., and an equivalent amount of the aforementioned reagents (2-(ethylthio)ethanol, tributylphosphine and 1,1′-(azodicarbonyl)dipiperidine) were added at the same temperature and the mixture was further stirred for 16 hrs. Diethyl ether was added to the reaction mixture and insoluble material was filtered off. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=4/1) to give the title compound (1.40 g, yield 69%) as a colorless oil.

reactant | tert-butyl 3-{4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate | 3.91 mmol, 1.69 g | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC(C)(C)C)C | C28H32O4
reactant | 2-(ethylthio)ethanol | 4.30 mmol, 0.46 mL | C(C)SCCO | C4H10OS
reactant | tributylphosphine | 5.86 mmol, 1.46 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 5.86 mmol, 1.48 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 33 mL | O1CCCC1 | C4H8O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | tert-butyl 3-[4-({4′-[2-(ethylthio)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)phenyl]propanoate | 1.40 g, yield 69% | C(C)SCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC(C)(C)C)C | C32H40O4S
